US06562823B1
Step A: Preparation of 4-Iodo-3-methylphenol
To a solution of 4-amino-meta-cresol (20.59 g, 167 mmol) in 90 mL of tetrahydrofuran and 280 mL of 3M HCl solution at 0° C. was added a solution of NaNO2 (12.73 g, 184 mmol) in 40 mL of water dropwise over 5 minutes. After 25 minutes, a solution of potassium iodide (112.5 g, 678 mmol) in 85 mL of water was added, and stirring was continued for 15 minutes. The solution was poured into EtOAc and the organic layer was washed with water and brine, dried (Na2SO4), filtered, and concentrated in vacuo. The resulting product was purified by silica gel chromatography (0-50% EtOAc/hexane) to provide the desired product as a dark crystalline solid.

reactant | 4-amino-meta-cresol | 167 mmol, 20.59 g | NC=1C(=CC(=CC1)O)C | C7H9NO
reactant | NaNO2 | 184 mmol, 12.73 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 678 mmol, 112.5 g | [I-].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
solvent | HCl | 3M, 280 mL | Cl | ClH
solvent | water | 40 mL | O | H2O
solvent | water | 85 mL | O | H2O
product | 4-Iodo-3-methylphenol | IC1=C(C=C(C=C1)O)C | C7H7IO
